US07727988B2
3-[2,4-Dioxo-1-(3-oxo-propyl)-1,2,3,4-tetrahydro-pyrimidin-5-yl]-pyridine-2-carbonitrile (Prep105)
3-[1-(3,3-Dimethoxy-propyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-pyridine-2-carbonitrile (Prep104, 210 mg, 0.66 mmol) was dissolved in THF (5 ml) and 2N HClaq (1 ml) was added. The solution was stirred at room temperature for 2 hours. The reaction mixture was neutralized with TEA. Water was added (1 ml) and the product extracted with ethyl acetate. The organic phase was dried (Na2SO4) and evaporated to give 130 mg of a yellow oil (73% yield)

reactant | 3-[1-(3,3-Dimethoxy-propyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-pyridine-2-carbonitrile | 0.66 mmol, 210 mg | COC(CCN1C(NC(C(=C1)C=1C(=NC=CC1)C#N)=O)=O)OC | C15H16N4O4
reactant | Water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-[2,4-Dioxo-1-(3-oxo-propyl)-1,2,3,4-tetrahydro-pyrimidin-5-yl]-pyridine-2-carbonitrile | 130 mg, 73% yield | O=C1N(C=C(C(N1)=O)C=1C(=NC=CC1)C#N)CCC=O | C13H10N4O3
